US08871774B2
Formation of 3-bromo-5-fluoro-1H-pyrazolo[3,4-b]pyridine (4)
To the miture of 5-fluoro-1H-pyrazolo[3,4-b]pyridin-3-amine, 3, (0.88 g, 5.79 mmol) in bromoform (8.8 mL) was added tert-butyl nitrite (1.38 mL, 11.57 mmol). This mixture was heated to 61° C. for 1 h and then heated to 90° C. for an additional hour. The mixture was cooled to room temperature and bromoform was removed under reduced pressure. The resulting crude residue was purified by silica gel chromatography (5-50% ethyl acetate/hexanes) to afford 970 mg of the desired product as a white solid: 1H NMR (300 MHz, DMSO) δ 14.22 (s, 1H), 8.67 (dd, J=2.7, 1.9 Hz, 1H), 8.07 (dd, J=8.2, 2.7 Hz, 1H); LC/MS Gradient 10-90%, 0.1% formic 5 min, C18/ACN, Retention Time=2.42 min, (M+H) 216.11.

reactant | 5-fluoro-1H-pyrazolo[3,4-b]pyridin-3-amine | FC=1C=C2C(=NC1)NN=C2N | C6H5FN4
reactant | tert-butyl nitrite | 11.57 mmol, 1.38 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | bromoform | 8.8 mL | C(Br)(Br)Br | CHBr3
product | 3-bromo-5-fluoro-1H-pyrazolo[3,4-b]pyridine | 970 mg | BrC1=NNC2=NC=C(C=C21)F | C6H3BrFN3
